US04723040
Preparation of N-phenyl-p-phenylenediamine
To a 1-liter three-necked round bottom flask fitted with a stirrer, a condenser and a thermometer were added 99.0 (0.5 mole) N-phenyl-4-nitrosoaniline, 254 g n-hexanol and 40 g (0.5 mole) aqueous NaOH (50% by weight). The dark reddish brown solution was stirred, heated to 100° C., at which point an exotherm developed, and heating was discontinued. A temperature rise to 120° C. was observed within 15 minutes. After another 15 minutes, the temperature returned to 100° C. Stirring was continued for one hour while maintaining the reaction mixture at 100°-105° C. Thereafter, a sample of the reaction mixture was analyzed by HPLC; no nitroso starting material was detected.

reactant | N-phenyl-4-nitrosoaniline | C1(=CC=CC=C1)NC1=CC=C(C=C1)N=O | C12H10N2O
reactant | n-hexanol | 254 g | C(CCCCC)O | C6H14O
reactant | NaOH | 0.5 mole, 40 g | [OH-].[Na+]
product | N-phenyl-p-phenylenediamine | C1(=CC=CC=C1)NC1=CC=C(C=C1)N | C12H12N2
